US04165377
To 2-guanidino-4-(5-aminopentyl)thiazole hydrochloride hydrobromide (1.2 g.) was added dilute aqueous sodium hydroxide solution (10 ml.). The mixture was stirred briefly, and the white precipitate (0.588 g.) filtered off. This material was dissolved in ethanol (10 ml.) and dimethyl (cyanoimido)dithiocarbonate (0.4 g.) added. The mixture was stirred 2.5 hours to give a solution of 2-guanidino-4-[5-(3-cyano-2-methylisothioureido)pentyl]thiazole.

reactant | 2-guanidino-4-(5-aminopentyl)thiazole hydrochloride hydrobromide | 1.2 g | Br.Cl.N(C(=N)N)C=1SC=C(N1)CCCCCN
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | 2-guanidino-4-[5-(3-cyano-2-methylisothioureido)pentyl]thiazole | N(C(=N)N)C=1SC=C(N1)CCCCCNC(SC)=NC#N | C12H19N7S2
